US05859014
substituting 1-(2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 1-biphenyl-3-ylmethyl-3-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione gave 1-biphenyl-3-ylmethyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}-propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 93°-94° C.; Anal.: Calcd. for C33H35F3N4O3.HCl: C, 63.06; H, 5.77; N, 8.92%; Found: C, 61.66; H, 5.90; N, 8.50%;

reactant | 1-(2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 1-biphenyl-3-ylmethyl-3-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | C1(=CC(=CC=C1)CN1C(N(C(C(=C1)C)=O)CCCCl)=O)C1=CC=CC=C1 | C21H21ClN2O2
product | 1-biphenyl-3-ylmethyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}-propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.C1(=CC(=CC=C1)CN1C(N(C(C(=C1)C)=O)CCCN1CCN(CC1)C1=C(C=CC=C1)OCC(F)(F)F)=O)C1=CC=CC=C1 | InChI=1S/C33H35F3N4O3.ClH/c1-25-22-39(23-26-9-7-12-28(21-26)27-10-3-2-4-11-27)32(42)40(31(25)41)16-8-15-37-17-19-38(20-18-37)29-13-5-6-14-30(29)43-24-33(34,35)36;/h2-7,9-14,21-22H,8,15-20,23-24H2,1H3;1H
